US08217066B2
Step 2: 1-{4′-[4-(2,2-Difluoro-1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using dichlorobis(triphenylphosphine)palladium(II) as the catalyst and using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C14H12BrF2NO2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
catalyst | dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-{4′-[4-(2,2-Difluoro-1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C26H25F2NO4
